US04343811
3-Methyl-2-(4-nitro-phenyl)-1-propyl-1H-indole-5-ol
Four grams (10 m mole) of 5-benzyloxy-3-methyl-2-(4-nitro-phenyl)-1-propyl-1H-indole and 40 ml of a saturated solution of hydrogen bromide in glacial acetic acid were refluxed for 20 minutes. After evaporation, the residue was purified by chromatography on silicagel (solvent: toluene/acetone (20:1)).

reactant | 5-benzyloxy-3-methyl-2-(4-nitro-phenyl)-1-propyl-1H-indole | Four grams | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C25H24N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Methyl-2-(4-nitro-phenyl)-1-propyl-1H-indole-5-ol | CC1=C(N(C2=CC=C(C=C12)O)CCC)C1=CC=C(C=C1)[N+](=O)[O-] | C18H18N2O3
